US05580986
3. 1-(5-Difluoromethoxy-1-methyl-3-pyrazolyl)-5-methyl-4-pyrazolecarbonyl Chloride
0.2 g (3.8 mmol) 1-(5-Difluoromethoxy-1-methyl-3-pyrazolyl)-5-methyl-4-pyrazolecarboxylic acid was suspended in 30 ml 1,2-dichloroethane and 1.19 g (10.0 mmol) thionyl chloride was added at room temperature, dropwise. The mixture was heated for 1 hour under reflux and concentrated.

reactant | 1-(5-Difluoromethoxy-1-methyl-3-pyrazolyl)-5-methyl-4-pyrazolecarboxylic acid | 3.8 mmol, 0.2 g | FC(OC1=CC(=NN1C)N1N=CC(=C1C)C(=O)O)F | C10H10F2N4O3
reactant | thionyl chloride | 10.0 mmol, 1.19 g | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | 1-(5-Difluoromethoxy-1-methyl-3-pyrazolyl)-5-methyl-4-pyrazolecarbonyl Chloride | FC(OC1=CC(=NN1C)N1N=CC(=C1C)C(=O)Cl)F | C10H9ClF2N4O2
